US04696930
A solution of 10 g of N-(2,6-dimethylphenyl)-3-pyridine propanamine in dichloromethane was cooled in an ice bath and was treated with 10.4 g of 2,3-dihydro-1,3-dioxo-1H-isoindole-alpha-methylacetyl chloride. The reaction mixture was stirred at 0° C. for 10 minutes and allowed to warm to room temperature overnight. The solvent was evaporated and the residue was crystallized from methanol-ether to give 15.6 g of rac.-2,3-dihydro-N-(2,6-dimethylphenyl)-alpha-methyl-1,3-dioxo-N-[3-(3-pyridinyl)propyl]-1H-isoindole-2-acetamide-hydrochloride, mp 220°-223° C. Recrystallization from methanol-ether afforded 13.55 g of captioned product, mp 223°-225° C.

reactant | N-(2,6-dimethylphenyl)-3-pyridine propanamine | 10 g | CC1=C(C(=CC=C1)C)NCCCC=1C=NC=CC1 | C16H20N2
reactant | 2,3-dihydro-1,3-dioxo-1H-isoindole alpha-methylacetyl chloride | 10.4 g | O=C1NC(C2=CC=CC=C12)=O.CCC(=O)Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | rac.-2,3-dihydro-N-(2,6-dimethylphenyl)-alpha-methyl-1,3-dioxo-N-[3-(3-pyridinyl)propyl]-1H-isoindole-2-acetamide-hydrochloride | 15.6 g | Cl.CC1=C(C(=CC=C1)C)N(C(C(N1C(C2=CC=CC=C2C1=O)=O)C)=O)CCCC=1C=NC=CC1 | InChI=1S/C27H27N3O3.ClH/c1-18-9-6-10-19(2)24(18)29(16-8-12-21-11-7-15-28-17-21)25(31)20(3)30-26(32)22-13-4-5-14-23(22)27(30)33;/h4-7,9-11,13-15,17,20H,8,12,16H2,1-3H3;1H
